US07723331B2
6-(4-Chlorophenyl)-3-{3-[(4-methylpiperazin-1-yl)methyl]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one
5-(4-Chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester (0.177 g, 0.547 mmol), 3-(4-methyl-piperazin-1-ylmethyl)-benzylamine (0.100 g, 0.456 mmol) and phenol (1.00 g) were stirred at 130° C. for 1.5 hours. The reaction mixture was allowed to cool to r.t. The product was partly purified by flash chromatography using EtOAc, MeOH and TEA mixtures as eluent to give a yellow solid. The solid was washed with MeOH to give the product. Yield: 0.122 g (48%). 1H NMR (400 MHz, CDCl3) δ 8.11 (s, 1H), 7.63 (d, 2H, J=8.52 Hz), 7.45 (s, 1H), 7.43 (d, 2H, J=8.52 Hz), 7.21-7.34 (m, 4H), 5.20 (s, 2H), 3.47 (s, 2H), 2.41 (bs, 8H), 2.25 (s, 3H). MS (ESI+) 464.93 (M+1H+).

reactant | 5-(4-Chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester | 0.547 mmol, 0.177 g | COC(=O)C=1SC(=CC1N=CN(C)C)C1=CC=C(C=C1)Cl | C15H15ClN2O2S
reactant | 3-(4-methyl-piperazin-1-ylmethyl)-benzylamine | 0.456 mmol, 0.100 g | CN1CCN(CC1)CC=1C=C(CN)C=CC1 | C13H21N3
reactant | phenol | 1.00 g | C1(=CC=CC=C1)O | C6H6O
product | 6-(4-Chlorophenyl)-3-{3-[(4-methylpiperazin-1-yl)methyl]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC(=CC=C1)CN1CCN(CC1)C | C25H25ClN4OS
